US07319099B2
(c) 4-(4-Cyclopropanesulfonyl-2,3-difluoro-phenyl)-piperazine-1-carboxylic acid tert-butyl ester
To 4.2 mmol 1-cyclopropanesulfonyl-2,3,4-trifluoro-benzene in 20 ml N,N-dimethylacetamide was added 8.9 mmol tert-butyl-1-piperazine carboxylate, and the mixture was heated at 90° C. for 1 h. The mixture was then cooled to room temperature and concentrated in vacuo. The residue was chromatographed on silica gel (eluant: dichloromethane/ethyl acetate gradient) to afford the title compound. MS (m/e): 403.3 (M+H+, 100%)

reactant | 1-cyclopropanesulfonyl-2,3,4-trifluoro-benzene | 4.2 mmol | C1(CC1)S(=O)(=O)C1=C(C(=C(C=C1)F)F)F | C9H7F3O2S
reactant | tert-butyl-1-piperazine carboxylate | 8.9 mmol | C(C)(C)(C)OC(=O)N1CCNCC1 | C9H18N2O2
solvent | N,N-dimethylacetamide | 20 ml | CN(C(C)=O)C | C4H9NO
product | 4-(4-Cyclopropanesulfonyl-2,3-difluoro-phenyl)-piperazine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=C(C(=C(C=C1)S(=O)(=O)C1CC1)F)F | C18H24F2N2O4S
